US05155234
100 parts by weight and 150 parts by weight 99% by weight concentrated nitric acid are each added to a reaction vessel and brought to a temperature of 70° C. To each solution is added 10 parts by weight phthalic acid. Nitration is allowed to continue at 70° C. for three hours and produces yields of greater than 90% of theoretical yield consisting essentially of a mixture of 3- and 4- nitrophthalic acid. Table 1 shows the make-up of the reaction product mix in mole percent. The mole ratio of 4- to 3- nitrophthalic acid formed was approximately 1.1:1.

reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
reactant | phthalic acid | C(C=1C(C(=O)O)=CC=CC1)(=O)O | C8H6O4
product | 3- nitrophthalic acid | [N+](=O)([O-])C1=C(C(C(=O)O)=CC=C1)C(=O)O | C8H5NO6
